US04845100
1.0 Gram of 6-carboxy-3,4-dihydrocarbostyril, 1.3 g of DCC (dicyclohexylcarbodiimide) and 1.4 g of geranylpiperazine were suspended in 10 ml of dioxane, and the suspension was stirred at 60°-70° C. for 5 hours. After the reaction was finished, the solvent was removed from the reaction mixture by evaporation, then to the residue thus obtained was added a certain amount of diethyl ether and the crystals formed were removed by filtration. The mother liquor was concentrated, and the residue thus obtained was dissolved by adding chloroform, the chloroform solution was washed with water and an aqueous solution saturated with sodium chloride. The chloroform solution was dried with anhydrous sodium sulfate, then the solvent was removed by evaporation. To the residue thus obtained was added 20 ml of ethanol, and converted into hydrochloride with 1.3 ml of concentrated hydrochloric acid. Recrystallized from ethanol-water to obtain 340 mg of 6-(4-geranyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril.hydrochloride. monohydrate. Colorless needle-like crystals. Melting point: 265°-266° C. (dec.).

reactant | 6-carboxy-3,4-dihydrocarbostyril | C(=O)(O)C=1C=C2CCC(NC2=CC1)=O | C10H9NO3
reactant | DCC | 1.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | geranylpiperazine | 1.4 g | C(\C=C(/C)\CCC=C(C)C)N1CCNCC1 | C14H26N2
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid | 1.3 ml | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-(4-geranyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril.hydrochloride | 340 mg | Cl.C(\C=C(/C)\CCC=C(C)C)N1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C24H33N3O2.ClH/c1-18(2)5-4-6-19(3)11-12-26-13-15-27(16-14-26)24(29)21-7-9-22-20(17-21)8-10-23(28)25-22;/h5,7,9,11,17H,4,6,8,10,12-16H2,1-3H3,(H,25,28);1H/b19-11+;
